US09422267B2
To a solution of 6-fluoropyridin-3-amine (1.2 g, 11.30 mmol) in dry THF (20 mL) was added 2M solution of isopropylmagnesium chloride in THF (9.4 mL, 18.8 mmol) dropwise under nitrogen at 0° C. The resultant mixture was stirred at 0° C. for 20 min. To this solution was added a solution of (4R)-methyl 1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-4-methoxypyrrolidine-2-carboxylate (3 g, 7.53 mmol) in THF (10 mL) dropwise at 0° C. and the reaction mixture was allowed to stir at RT overnight. The reaction was quenched with saturated ammonium chloride solution (50 mL). The product was extracted with EtOAc (2×100 mL) and the organic layer was dried over anhydrous sodium sulfate. Removal of EtOAc under reduced pressure afforded a diastereomeric mixture of Compound 21. The diastereomers were separated by reverse phase followed by chiral HPLC to afford (2R,4R)-1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-(6-fluoropyridin-3-yl)-4-methoxypyrrolidine-2-carboxamide (Compound No. 21a, 208 mg) and (2S,4R)-1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-(6-fluoropyridin-3-yl)-4-methoxypyrrolidine-2-carboxamide (Compound No. 21b, 193 mg). Compound No. 21a: 1H NMR (400 MHz, CD3OD, freebase) δ (ppm): 0.60-0.78 (m, 2H), 0.82-0.98 (m, 2H), 1.78-1.82 (m, 1H), 2.08-2.20 (m, 2H), 2.38-2.62 (m, 2H), 2.78-2.91 (m, 4H), 3.40 (s, 3H), 2.70-2.81 (m, 1H), 3.90-4.02 (m, 1H), 4.15-4.21 (m, 1H), 4.72-4.78 (m, 1H), 6.21 (brs, 1H), 7.00 (dd, 1H), 8.00 (brs, 1H), 8.28 (brs, 1H). Compound No. 21b: 1H NMR (400 MHz, CD3OD, freebase) δ (ppm): 0.60-0.78 (m, 2H), 0.82-0.98 (m, 2H), 1.78-1.82 (m, 1H), 2.08-2.20 (m, 2H), 2.38-2.62 (m, 2H), 2.78-2.91 (m, 4H), 3.40 (s, 3H), 3.80-4.01 (m, 2H), 4.15-4.21 (m, 1H), 4.72-4.78 (m, 1H), 6.21 (brs, 1H), 7.00 (dd, 1H), 8.00 (brs, 1H), 8.28 (brs, 1H).

reactant | 6-fluoropyridin-3-amine | 11.30 mmol, 1.2 g | FC1=CC=C(C=N1)N | C5H5FN2
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | (4R)-methyl 1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-4-methoxypyrrolidine-2-carboxylate | 7.53 mmol, 3 g | C1(CC1)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1C(C[C@H](C1)OC)C(=O)OC)CCC2 | C20H26N6O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 18.8 mmol, 9.4 mL | C1CCOC1 | C4H8O
product | (2R,4R)-1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-(6-fluoropyridin-3-yl)-4-methoxypyrrolidine-2-carboxamide | C1(CC1)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1[C@H](C[C@H](C1)OC)C(=O)NC=1C=NC(=CC1)F)CCC2 | C24H27FN8O2
